US07816378B2
To a solution of crude N-(4-{[(3-amino-3-benzyltetrahydrofuran-2-yl)oxy]methyl}-6-chloropyridin-2-yl)-N-propylmethanesulfonamide (800 mg, 1.76 mmol) in THF (10 mL) was added diisopropylethyl amine (1.53 mL, 8.8 mmol) and ditertbutyl dicarbonate (770 mg, 3.52 mmol), and the reaction mixture was stirred at 60° C. for 16 h. The reaction mixture was concentrated in vacuo, and purified by flash chromatography (120 g silica gel, 0 to 35% EtOAc in hexane) to give tert-butyl[3-benzyl-2-({2-chloro-6-[(methylsulfonyl)(propyl)amino]pyridin-4-yl}methoxy)tetrahydrofuran-3-yl]carbamate as a brown foam. MS M+1=554.

reactant | N-(4-{[(3-amino-3-benzyltetrahydrofuran-2-yl)oxy]methyl}-6-chloropyridin-2-yl)-N-propylmethanesulfonamide | 1.76 mmol, 800 mg | NC1(C(OCC1)OCC1=CC(=NC(=C1)Cl)N(S(=O)(=O)C)CCC)CC1=CC=CC=C1 | C21H28ClN3O4S
reactant | diisopropylethyl amine | 8.8 mmol, 1.53 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ditertbutyl dicarbonate | 3.52 mmol, 770 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl[3-benzyl-2-({2-chloro-6-[(methylsulfonyl)(propyl)amino]pyridin-4-yl}methoxy)tetrahydrofuran-3-yl]carbamate | C(C)(C)(C)OC(NC1(C(OCC1)OCC1=CC(=NC(=C1)N(CCC)S(=O)(=O)C)Cl)CC1=CC=CC=C1)=O | C26H36ClN3O6S
